US07964293B2
Into a flask, 1.50 g of 3,6-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolanyl)-9-naphthalene-1-yl-carbazole, 1.32 g of 5-bromo-2,3′-bipyridine, 194 mg of Pd(PPh3)4, 2.40 g of tripotassium phosphate, 25 ml of 1,4-dioxane, and 5 ml of water were put, and the solution was stirred at reflux temperature for 10 hours under argon atmosphere. After heating, the reaction liquid was cooled to room temperature, and washed by a saturated sodium chloride aqueous solution. The organic layer was concentrated in an evaporator, and the concentrates were washed by methanol. After washing, the concentrates were purified by silica gel column chromatography, recrystallized in a chloroform/ethyl acetate mixed solvent, and thus 475 mg of 3,6-bis(2,3′-bipyridine-5-yl)-9-naphthalene-1-yl-carbazole was obtained.

reactant | 3,6-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolanyl)-9-naphthalene-1-yl-carbazole | 1.50 g | CC1(OB(OC1(C)C)C=1C=CC=2N(C3=CC=C(C=C3C2C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC2=CC=CC=C12)C | C34H37B2NO4
reactant | 5-bromo-2,3′-bipyridine | 1.32 g | BrC=1C=CC(=NC1)C=1C=NC=CC1 | C10H7BrN2
reactant | tripotassium phosphate | 2.40 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 194 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 ml | O | H2O
product | 3,6-bis(2,3′-bipyridine-5-yl)-9-naphthalene-1-yl-carbazole | 475 mg | N1=C(C=CC(=C1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C=1C=CC(=NC1)C=1C=NC=CC1)C1=CC=CC2=CC=CC=C12)C=1C=NC=CC1 | C42H27N5
